US07691879B2
1-[(2,3-dihydroxypropyl)amino]-4-(2-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile
Following the procedure for 4-(3-fluorophenyl)-1-[(2-hydroxyethyl)amino]-6-methoxyisoquinoline-3-carbonitrile, using 1-chloro-4-(2-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile in place of 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile, and using racemic 1-amino-2,3-propanediol in place of 2-aminoethanol, the title compound was synthesized.

reactant | 4-(3-fluorophenyl)-1-[(2-hydroxyethyl)amino]-6-methoxyisoquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)NCCO)C#N | C19H16FN3O2
reactant | 1-chloro-4-(2-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=C(C=CC=C1)F)C#N | C17H10ClFN2O
reactant | racemic 1-amino-2,3-propanediol | NCC(CO)O | C3H9NO2
product | 1-[(2,3-dihydroxypropyl)amino]-4-(2-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | OC(CNC1=NC(=C(C2=CC(=CC=C12)OC)C1=C(C=CC=C1)F)C#N)CO | C20H18FN3O3
